US06953857B2
(iii) 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid
0.85 g (2.00 mmol) of 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid methyl ester was dissolved in 20 ml of dioxan. 5 ml of water and 2N aqueous NaOH was added to the solution to give a pH of 13. The reaction solution was stirred for 5 h then poured into water. The resulting solution was cooled to 0° C. and concentrated hydrochloric acid was added to give a pH of 3. The product was extracted 3 times with ethyl acetate. The organic phase was dried over magnesium sulphate, filtered and the solvent was removed under reduced pressure.

reactant | 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid methyl ester | 2.00 mmol, 0.85 g | COC(C1=CC(=CC=C1)CN(CC1=C(C=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C)=O | C21H23Cl2NO4
reactant | water | 5 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid | C(C)(C)(C)OC(=O)N(CC1=C(C=C(C=C1)Cl)Cl)CC=1C=C(C(=O)O)C=CC1 | C20H21Cl2NO4
